US04826982
3-Bromo-2,4,5-trifluorobenzoic acid
A mixture of 3-bromo-2,4,5-trifluorobenzamide (8.7 g) and 18N-sulfuric acid (50 ml) was stirred at 100° C. for 4 hours, and then poured into ice water (200 ml). The resulting precipitate was collected by filtration and recrystallized from dichloro-methane-n-hexane to give the title compound (6.9 g), mp 125°-127° C.

reactant | 3-bromo-2,4,5-trifluorobenzamide | 8.7 g | BrC=1C(=C(C(=O)N)C=C(C1F)F)F | C7H3BrF3NO
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Bromo-2,4,5-trifluorobenzoic acid | 6.9 g | BrC=1C(=C(C(=O)O)C=C(C1F)F)F | C7H2BrF3O2
